US08309545B2
5-Acetyl-4,7-dimethoxy-6-(3-(phenyl)propoxy)benzofuran
Khellinone (59 mg, 0.25 mmol) and 3-(phenyl)propylbromide (46 μL, 0.30 mmol) were treated as described under General Procedure A to afford the title compound (76 mg, 85%) as a colourless solid: 1H NMR (300 MHz, CDCl3): δ 2.03 (m, 2H), 2.53 (s, 3H), 2.76 (t, J=7.8 Hz, 2H), 3.97 (s, 3H), 4.03 (s, 3H), 4.08 (t, J=6.3 Hz, 2H), 6.86 (d, J=2.4 Hz, 1H), 7.14-7.30 (m, 5H), 7.56 (d, J=2.4 Hz, 1H). MS (ES+) m/z 355.1 (M+H+).

reactant | Khellinone | 0.25 mmol, 59 mg | CC(=O)C1=C(C2=C(C(=C1O)OC)OC=C2)OC | C12H12O5
reactant | 3-(phenyl)propylbromide | 0.30 mmol, 46 μL | C1(=CC=CC=C1)CCCBr | C9H11Br
product | 5-Acetyl-4,7-dimethoxy-6-(3-(phenyl)propoxy)benzofuran | 76 mg, 85% | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)OCCCC1=CC=CC=C1 | C21H22O5
